data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_337815_0,[C:1](/[C:4](=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])[O:7][H:9])(/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:8]\[H:10])([H:11])[H:12]>>[C:1](=[C:4]([C@@:6]([C:3]([H:17])([H:18])[H:19])(/[C:5]([C:2]([H:14])([H:15])[H:16])=[N:8]\[H:10])[H:13])[O:7][H:9])([H:11])[H:12],72.48377999997928
MR_564864_1,[C:1]([C:4](=[C:9]([H:22])[H:23])[O:10][C:2]([H:19])([H:20])[H:21])([C:5](=[C:3]([N:6]([H:11])[H:12])[N:7]([H:13])[H:14])[N:8]([H:15])[H:16])([H:17])[H:18]>>[C:1]1([H:17])([H:18])[C:4](=[C:9]([H:22])[H:23])[C:5]1([C:3]([N:6]([H:11])[H:12])([N:7]([H:13])[H:14])[O:10][C:2]([H:19])([H:20])[H:21])[N:8]([H:15])[H:16],72.56158999996117
MR_94206_1,[C:1]([C:2]([H:12])([H:13])[H:14])([N:6]([C:3]([N:4]([H:7])[H:8])=[O:5])[H:9])([H:10])[H:11]>>[C:1]([C:2]([H:12])([H:13])[H:14])([O:5]/[C:3]([N:4]([H:7])[H:8])=[N:6]/[H:9])([H:10])[H:11],71.84059249999805
MR_588163_2,[C:1]([N:3]([O:5][C:2]([H:11])([H:12])[H:13])[H:8])([O:4][O:6][H:7])([H:9])[H:10]>>[C:1]([N:3]([O:4][O:6][H:7])[H:8])([O:5][C:2]([H:11])([H:12])[H:13])([H:9])[H:10],73.31145249999409
MR_112003_1,[C:1](/[C:3](=[C:5](\[C:2]([H:13])([H:14])[H:15])[H:12])[O:6][H:8])([C:4](=[O:7])[H:9])([H:10])[H:11]>>[C:1](=[C:3]([C@:5]([C:2]([H:13])([H:14])[H:15])([C:4](=[O:7])[H:9])[H:12])[O:6][H:8])([H:10])[H:11],50.11528749998988
MR_548618_1,[C:1]12([C:5](=[C:6]([H:13])[H:14])[H:12])[C:4]([H:11])=[C:2]([N:3]([H:9])[H:10])[N:8]1[O:7]2>>[c:1]1([C:5](=[C:6]([H:13])[H:14])[H:12])[c:4]([H:11])[c:2]([N:3]([H:9])[H:10])[n:8][o:7]1,15.00352500000048
MR_211851_0,[C:1]([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])([C:5]([N:6]([H:9])[H:10])=[O:8])[O:7][C:2]([H:11])([H:12])[H:13]>>[C:1]1([C:3]([H:14])([H:16])[H:17])([C:4]([H:15])([H:18])[H:19])[C@@:5]([N:6]([H:9])[H:10])([O:7][C:2]([H:11])([H:12])[H:13])[O:8]1,72.95315000000699
MR_93892_0,[C:1]([c:3]1[o:7][c:4]([C:2]([H:14])([H:15])[H:16])[c:5]([N:6]([H:9])[H:10])[n:8]1)([H:11])([H:12])[H:13]>>[C:1]([C:3]1=[N:8][C:5]1([C:4]([C:2]([H:14])([H:15])[H:16])=[O:7])[N:6]([H:9])[H:10])([H:11])([H:12])[H:13],44.30401000000188
MR_286765_2,[C@@:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:5]([H:10])[H:11])[H:8])(/[C:4]([N:6]([H:12])[H:13])=[N:7]/[H:14])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:4](/[N:6]([H:12])[H:13])[N:7]([N:3]([N:5]([H:10])[H:11])[H:8])[H:14])[H:9],65.5185299999799
MR_130244_0,[C:1]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:3]([O:5][H:8])[O:6][H:9])([O:7][H:10])([H:11])[H:12]>>[C:1](=[C:4]([C:2]([H:13])([H:14])[H:15])[C:3]([O:5][H:8])([O:6][H:9])[O:7][H:10])([H:11])[H:12],55.24070749999737
MR_658070_1,[C:1]12([H:9])[C:3]([H:15])([H:16])[O:7][C:4]1([C:2]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:10])[O:8]2>>[C:1]1([C:4]([C:2]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:10])=[O:8])([H:9])[C:3]([H:15])([H:16])[O:7]1,37.08775999999418
MR_142524_0,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](/[C:2]([H:13])([H:14])[H:15])[N:6]([H:9])[H:10])([O:7][H:8])([H:11])[H:12]>>[C:1]([C:5]([C:3]([H:16])([H:17])[H:18])(/[C:4]([C:2]([H:13])([H:14])[H:15])=[N:6]/[H:10])[H:8])([O:7][H:9])([H:11])[H:12],50.71643250000591
MR_505298_0,[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:4]([C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])=[N:7]/[H:12])([N:6]([H:10])[H:11])[H:9]>>[C:1]([C:3]([H:16])([H:17])[H:18])(/[C:4]([C:5]([C:2]([H:13])([H:14])[H:15])([O:8][H:11])[H:9])=[N:7]/[H:12])=[N:6]\[H:10],58.54574999999954
MR_300784_1,[C:1]1([C:2]([H:15])([H:16])[H:17])([H:12])[C:5]([N:7]([H:13])[H:14])([O:9][C:6]([C:3]([H:18])([H:19])[H:20])=[O:10])[N:4]([H:11])[O:8]1>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:5]([N:7]([H:13])[H:14])=[O:9])([O:8][N:4]([C:6]([C:3]([H:18])([H:19])[H:20])=[O:10])[H:11])[H:12],32.77746249999751
MR_366809_1,[C:1](/[C:6](=[C:5](/[N:2]([N:3]([N:4]([H:10])[H:11])[H:9])[O:7][H:8])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]([N:3]([N:4]([H:10])[H:11])[H:9])(/[C:5](=[N:2]/[O:7][H:8])[H:12])[H:13])([H:14])([H:15])[H:16],35.7951100000119
MR_334986_1,[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])=[C:6]([N:3]([C:4]([O:7][H:9])=[O:8])[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]([C:2]([H:15])([H:16])[H:17])([C:4]([O:7][H:9])=[O:8])/[C:6](=[N:3]/[H:10])[H:11])([H:12])([H:13])[H:14],70.65649999999138
MR_241476_0,[C:1]1([O:5][H:8])([H:10])[C:2]([C:3]([O:6][H:9])=[O:7])([H:11])[O:4]1>>[C:1]([C:2]([C:3]([O:6][H:9])=[O:7])([O:4][H:8])[H:11])(=[O:5])[H:10],35.76122500002612
MR_346707_0,[C:1]([N:2]([C:3](=[O:5])[H:7])[O:4][H:6])([H:8])([H:9])[H:10]>>[C:1]([O:5]/[C:3](=[N:2]/[O:4][H:6])[H:7])([H:8])([H:9])[H:10],69.88341999998141
MR_402765_1,[C:1]1([N:6]2[C:2]([C:5]([H:15])([H:16])[H:17])([H:10])[C:3]2([H:11])[H:12])([H:9])[C:4]([H:13])([H:14])[N:7]1[H:8]>>[C:1]1([H:9])=[N:6][C:3]([H:11])([H:12])[C:2]([C:5]([H:15])([H:16])[H:17])([H:10])[N:7]([H:8])[C:4]1([H:13])[H:14],57.05983000000586
